US07429609B2
3-[(E)-2-(3-Fluorophenyl)-vinyl]-4-methoxy-5-(5-methyl-2H-[1,2,4]triazol-3-yl)-1H-indazole
To a suspension of 19 mg of 3-[(E)-2-(3-fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carboxylic acid hydrazide in 4 mL of ethanol were added 50 mg of O-methyl acetimidate hydrochloride and 0.19 mL of triethylamine, and stirred in a sealed tube at 150° C. for 17.5 hours. The reaction solution was allowed to cool to room temperature, the solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography, and further purified and separated by LC-MS, to afford 1.17 mg of the title compound as a yellow amorphous.

reactant | 3-[(E)-2-(3-fluorophenyl)-vinyl]-4-methoxy-1H-indazole-5-carboxylic acid hydrazide | 19 mg | FC=1C=C(C=CC1)/C=C/C1=NNC2=CC=C(C(=C12)OC)C(=O)NN | C17H15FN4O2
reactant | O-methyl acetimidate hydrochloride | 50 mg | Cl.C(C)(OC)=N
reactant | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[(E)-2-(3-Fluorophenyl)-vinyl]-4-methoxy-5-(5-methyl-2H-[1,2,4]triazol-3-yl)-1H-indazole | 1.17 mg | FC=1C=C(C=CC1)/C=C/C1=NNC2=CC=C(C(=C12)OC)C=1NN=C(N1)C | C19H16FN5O
